US09278996B2
N-t-butoxycarbonyl-cis-4-methoxy-L-prolinal (IV-3)
With the exception that N-t-butoxycarbonyl-cis-4-methoxy-L-prolinol, instead of N-t-butoxycarbonyl-L-prolinol, was used, the same procedure as in Preparation Example 1-1 was repeated to afford the title compound. 6.94 g (65%).

reactant | N-t-butoxycarbonyl-cis-4-methoxy-L-prolinol | C(C)(C)(C)OC(=O)N1[C@H](CO)C[C@@H](C1)OC | C11H21NO4
reactant | N-t-butoxycarbonyl-L-prolinol | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
product | N-t-butoxycarbonyl-cis-4-methoxy-L-prolinal | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@@H](C1)OC | C11H19NO4
